US06063937
In this process sodium ascorbate is reacted with sodium trimetaphosphate in a molar ratio of 1:1 under the influence of a total of 2.5 mol of calcium hydroxide in order to produce 1 mol of ascorbic acid 2-monophosphate after three steps. Thereby, 2 mol of sodium calcium phosphate are liberated, the presence of which in the overall product is seen to be a disadvantage.

reactant | sodium ascorbate | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
reactant | sodium trimetaphosphate | [O-]P1(=O)OP(=O)(OP(=O)(O1)[O-])[O-].[Na+].[Na+].[Na+]
reactant | calcium hydroxide | 2.5 mol | [OH-].[Ca+2].[OH-]
product | ascorbic acid 2-monophosphate | 1 mol | P(=O)(O)(O)OC=1C(=O)O[C@@H](C1O)[C@@H](O)CO | C6H9O9P
